US08686048B2
Intermediate 22: 3-chloro-5-fluoro-3′-isobutoxybiphenyl-4-amine
The title compound (0.180 g) was prepared from 4-bromo-2-chloro-6-fluoroaniline (0.2 g, 0.89 mmol) and 3-isobutoxyphenylboronic acid (0.224 g, 1.16 mmol) as a yellow solid. 1H-NMR (δ ppm, DMSO-d6, 400 MHz): 7.44-7.41 (m, 2H), 7.27 (t, J 7.9, 1H), 7.17-7.10 (m, 2H), 6.84-6.81 (m, 1H), 5.50 (s, 2H), 3.83 (d, J 6.5, 2H), 2.07-1.97 (m, 1H), 1.00 (d, J 6.7, 6H).

reactant | 4-bromo-2-chloro-6-fluoroaniline | 0.89 mmol, 0.2 g | BrC1=CC(=C(N)C(=C1)F)Cl | C6H4BrClFN
reactant | 3-isobutoxyphenylboronic acid | 1.16 mmol, 0.224 g | C(C(C)C)OC=1C=C(C=CC1)B(O)O | C10H15BO3
product | 3-chloro-5-fluoro-3′-isobutoxybiphenyl-4-amine | 0.180 g | ClC=1C=C(C=C(C1N)F)C1=CC(=CC=C1)OCC(C)C | C16H17ClFNO
